US04855086
To a solution of ethyl 7-phenylhept-2E-en-6-ynoate (2.5 g) in methanol was added KOH (2.6 g) in water (6 ml). The mixture was stirred at 50° C. under a nitrogen atmosphere for 40 minutes, cooled, diluted with water (20 ml) and washed with ether (15 ml). The aqueous layer was acidified with 10% HCl and extracted with ether. The ether extracts were combined and dried over MgSO4, and the solvent was distilled off (adding dry benzene (4 ml) to form azeotrope with traces of water) to give 7-phenylhept-2E-en-6-ynoic acid (2 g) as a colourless oily solid.

reactant | ethyl 7-phenylhept-2E-en-6-ynoate | 2.5 g | C1(=CC=CC=C1)C#CCC/C=C/C(=O)OCC | C15H16O2
reactant | KOH | 2.6 g | [OH-].[K+]
solvent | methanol | CO | CH4O
solvent | water | 6 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 7-phenylhept-2E-en-6-ynoic acid | 2 g | C1(=CC=CC=C1)C#CCC/C=C/C(=O)O | C13H12O2
